US04975459
1,4-Diaminoanthraquinone (2.50 g., 10.49 mmole) was slurried in 50 ml. of anhydrous toluene and cooled to 0° C. with an ice-bath. An anhydrous toluene solution (100 ml.) of cyclopropane carboxylic acid chloride (9.60 ml., 105.79 mmole) was added slowly to the anthraquinone followed by the addition of triethylamine (1.50 ml., 10.76 mmole). The ice-bath was removed and the reaction mixture stirred at room temperature for 18 hrs. The mixture was briefly heated to 90° C. (1 hour), then cooled to room temperature, diluted with toluene and filtered. The filter-cake was rinsed with toluene and the rinsings added to the filtrate. The toluene solution was washed with 3% aqueous sodium chloride solution, followed by saturated aqueous sodium chloride solution, dried with magnesium sulfate, filtered and concentrated under reduced pressure to a small volume. Hexane was added and the resultant solid precipitate was isolated by filtration to yield 310 mg. (8% yield) of 1,4-bis-(cyclopropylcarbonylamino) anthraquinone as orange-red fluffy crystals. m.p. >200° C. 1H-NMR (200 MHz, CDCl3) δ=0.8-1.25 ppm, m, 6H; 1.5-1.9,m,4H; 7.81,m,2H; 8.28, m,2H; 9.14,s,2H; 12.78,s,2H.

reactant | 1,4-Diaminoanthraquinone | 10.49 mmole, 2.50 g | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
reactant | cyclopropane carboxylic acid chloride | 105.79 mmole, 9.60 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | triethylamine | 10.76 mmole, 1.50 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-bis-(cyclopropylcarbonylamino) anthraquinone | 8% yield | C1(CC1)C(=O)NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC(=O)C1CC1 | C22H18N2O4
